US07713994B2
3-Hydroxy-4-methoxybenzoic acid (1.0 g, 5.9 mmol) is coupled to tert-butyl carbazate (0.94 g, 7.1 mmol) using EDC (2.3 g, 12 mmol), HOBT (1.6 g, 15 mmol), and NMM (1.6 mL, 15 mmol) in tetrahydrofuran (30 mL). Following an aqueous work-up, the crude product is purified by reverse-phase high performance liquid chromatography to give N′-(3-hydroxy-4-methoxy-benzoyl)-hydrazinecarboxylic acid tert-butyl ester.

reactant | 3-Hydroxy-4-methoxybenzoic acid | 5.9 mmol, 1.0 g | OC=1C=C(C(=O)O)C=CC1OC | C8H8O4
reactant | tert-butyl carbazate | 7.1 mmol, 0.94 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | EDC | 12 mmol, 2.3 g
reactant | HOBT | 15 mmol, 1.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 15 mmol, 1.6 mL | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N′-(3-hydroxy-4-methoxy-benzoyl)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NNC(C1=CC(=C(C=C1)OC)O)=O | C13H18N2O5
